* lower case twin of device-letter-model-case.cir
* Identical to device-letter-model-case.cir except that every leading device
* letter is lower case.  Its .out is identical too, which is what pins the
* claim that the leading letter's case cannot change a number.
.OPTIONS noacct
v1 1 0 dc 5
r3 1 2 rmod l=12u w=4u
r9 2 0 5k
v2 3 0 dc 5
r4 3 4 10k
d1 4 0 dmod
v3 5 0 dc 5
r5 5 6 1meg
r7 5 7 1k
q1 7 6 0 qmod
.model rmod r rsh=1000 narrow=1u
.model dmod d is=1e-14
.model qmod npn bf=100
.control
op
print v(2) v(4) v(7)
.endc
.end
